US07750038B2
5-(3,3-dimethyl-2,3-dihydro-1H-indol-5-yl)-1-methyl-1H-pyrrole-2-carbonitrile hydrochloride (288 mg, 1.0 mmol) was dissolved in methylene chloride (5 mL) and triethylamine (0.43 mL, 3.0 mmol) was added. The mixture was treated with methanesulfonyl chloride (0.104 mL, 1.1 mmol) and stirred for 3 hours. The mixture was diluted with ethyl acetate, washed with water, 2N HCl, water, brine, dried over anhydrous magnesium sulfate, and concentrated. The crude product was purified via Isco chromatography (the Redisep® column, silica, gradient 10-60% ethyl acetate in hexane) to afford 5-[1-(ethylsulfonyl)-3,3-dimethyl-2,3-dihydro-1H-indol-5-yl]-1-methyl-1H-pyrrole-2-carbonitrile (0.24 g). MS (EI) m/z 343.8; HPLC purity 100.0% at 210-370 nm, 9.9 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammonium formate buffer pH=3.5 acetonitrile+MeOH) for 10 minutes, hold 4 minutes.

reactant | 5-(3,3-dimethyl-2,3-dihydro-1H-indol-5-yl)-1-methyl-1H-pyrrole-2-carbonitrile hydrochloride | 1.0 mmol, 288 mg | Cl.CC1(CNC2=CC=C(C=C12)C1=CC=C(N1C)C#N)C
reactant | triethylamine | 3.0 mmol, 0.43 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.1 mmol, 0.104 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[1-(ethylsulfonyl)-3,3-dimethyl-2,3-dihydro-1H-indol-5-yl]-1-methyl-1H-pyrrole-2-carbonitrile | 0.24 g | C(C)S(=O)(=O)N1CC(C2=CC(=CC=C12)C1=CC=C(N1C)C#N)(C)C | C18H21N3O2S
